US06043248
A solution of 2-chloro-3-methoxy-4-vinyl-6-(1-hydroxyethyl)-pyridine (485 mg, 2.27 mmol) in 10 mL of ethanol is treated with 485 mg of 20% palladium on carbon and 1,4-cyclohexadiene (2.0 mL, 21 mmol) and the reaction is refluxed for 4 h. The catalyst is removed by filtration through celite and the filter pad washed well with methanol. The filtrate is concentrated in vacuo and the residue is partitioned between 25 mL of saturated sodium bicarbonate and 4×25 mL of ethyl acetate. The combined organics are dried over potassium carbonate and concentrated in vacuo. The crude material is chromatographed over 20 g of silica gel (230-400 mesh), eluting with 100 mL of 50% ethyl acetate/hexanes followed by 80% ethyl acetate/hexanes to afford 256 mg (63%) of 3-methoxy-4-ethyl-6-(1-hydroxyethyl)-pyridine.

reactant | 2-chloro-3-methoxy-4-vinyl-6-(1-hydroxyethyl)-pyridine | 2.27 mmol, 485 mg | ClC1=NC(=CC(=C1OC)C=C)C(C)O | C10H12ClNO2
reactant | 1,4-cyclohexadiene | 21 mmol, 2.0 mL | C1=CCC=CC1 | C6H8
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 485 mg | [Pd] | Pd
product | 3-methoxy-4-ethyl-6-(1-hydroxyethyl)-pyridine | 256 mg, 63% | COC=1C=NC(=CC1CC)C(C)O | C10H15NO2
